US07691882B2
3-(3-(4-Butyl-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (3 mL) solution of (4-butyl-phenyl)-acetohydroximoyl chloride (150 mg, 0.665 mmol) described in Manufacturing Example 70-1-3 and 3-ethynyl-pyridin-2,6-diamine (56.5 mg, 0.424 mmol) described in Manufacturing Example 13-1-3 was added triethylamine (232 μL, 1.66 mmol). This mixture was stirred for 5 hours at room temperature. The mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1˜ethyl acetate) to obtain the title compound (66 mg, 31%).

reactant | (4-butyl-phenyl)-acetohydroximoyl chloride | 0.665 mmol, 150 mg | C(CCC)C1=CC=C(C=C1)CC(=NO)Cl | C12H16ClNO
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.424 mmol, 56.5 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 1.66 mmol, 232 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-Butyl-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 66 mg, 31% | C(CCC)C1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C19H22N4O
